US04920116
N-(3-Chloro-4-methoxyphenyl)-N'-ethyl-N'-heptyl-1,2-ethanediamine
In a manner similar to Preparation 2 react N-(3-chloro-4-methoxyphenyl)-2-[ethyl(heptyl)amino]acetamide with lithium aluminum hydride to obtain the title compound.

reactant | N-(3-chloro-4-methoxyphenyl)-2-[ethyl(heptyl)amino]acetamide | ClC=1C=C(C=CC1OC)NC(CN(CCCCCCC)CC)=O | C18H29ClN2O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | N-(3-Chloro-4-methoxyphenyl)-N'-ethyl-N'-heptyl-1,2-ethanediamine | ClC=1C=C(C=CC1OC)NCCN(CCCCCCC)CC | C18H31ClN2O
